** Capacitor model

.include param.txt

C1 in 1 {C}
L1 1 2 {L}
R1 2 0 {R}

V1 in 0 dc 0 ac 1 portnum 1 z0 50
V2 in 0 dc 0 ac 0 portnum 2 z0 50

.sp dec 51 100 6G

.control
run

let Rbase=50
settype impedance Rbase
wrs2p C.s2p
quit
.endc

.end