** Capacitor model

.include paramcomplex.txt

Cnom1 in 1 {Cnom}
Rlfloss1 in 1 {Rlfloss}
Lmount1 1 2 {Lmount}
Rhfskin1 2 0 {Rhfskin}
Lhfskin1 2 3 {Lhfskin}
Rmfskin1 3 0 {Rmfskin}
Llfskin1 3 4 {Llfskin}
Rlfskin1 4 0 {Rlfskin}

V1 in 0 dc 0 ac 1 portnum 1 z0 50
V2 in 0 dc 0 ac 0 portnum 2 z0 50

.sp dec 51 100 6G

.control
run

let Rbase=50
settype impedance Rbase
wrs2p C.s2p
quit
.endc

.end